US08426446B2
Step 1. Synthesis of 1-isocyanato-3-trifluoromethyl benzene
Triphosgene (0.75 g) was added to anhydroue toluene (10 ml) under nitrogen protection, and then a solution of 3-trifluoromethylaniline (0.8 g) in dichloromethane (15 ml) was added dropwise in an ice-bath. After addition, the reaction mixture was stirred at room temperature for 15 min, and then heated to 80° C. for 6 h. The completion of the reaction was indicated by TLC. The reaction mixture was concentrated under reduced pressure to give the product as oil, which then was solidified.

reactant | Triphosgene | 0.75 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-trifluoromethylaniline | 0.8 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-isocyanato-3-trifluoromethyl benzene | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
